* Z:\home\jambrosio\Desktop\Circuitos B\Bancada\Lab02\Y - Y des sem neutro .asc
* Generated by LTspice 24.1.6 for Windows.
Van a N002 SINE(0 184.83 60 0 0 0 0)
Vbn b N002 SINE(0 184.83 60 0 0 120)
Vcn c N002 SINE(0 184.83 60 0 0 -120)
R1 a N001 206.9
R4 N001 N003 216.0
L1 N006 b 21.5m
R2 N004 N006 210.1
R5 N003 N004 204.6
R3 N003 N005 212.2
R6 N005 c 204.6
C1 N003 c 29µ
.tran 0.1666 0.0833
.meas VanRMS RMS V(a)
.meas VbnRMS RMS V(b)
.meas VcnRMS RMS V(c)
* TENSÕES
* FASE
* LINHA
.meas VabRMS RMS V(a)-V(b)
.meas VbcRMS RMS V(b)-V(c)
.meas VcaRMS RMS V(c)-V(a)
* CORRENTES
.meas IRaRMS RMS I(R1)
.meas IRbRMS RMS I(R2)
.meas IRcRMS RMS I(R3)
.backanno
.end
